US04300942
To a solution of ethyl-N-[(benzylthio)carbonyl]-N-[bis(3-methylphenoxy)phosphinylmethyl]-glycinate (2.6 g.; 0.005 mol.) dissolved in 25 ml. of methylene chloride at 0° C. was added metachloroperbenzoic acid (1.02 g.; 0.005 mol.). The reaction mixture was stirred at 0° C. for 5.25 hours, filtered and the filtrate was washed with 5% sodium hydroxide, dried, and concentrated in vacuo. To remove any remaining solvent, the residue was concentrated at 25° C. and 0.05 mm. and yielded ethyl-N-[(benzylsulfinyl)carbonyl]-N-[bis(3-methylphenoxy)phosphinylmethyl]-glycinate as an oil (nD25 =1.5584) having the following analysis:

reactant | ethyl-N-[(benzylthio)carbonyl]-N-[bis(3-methylphenoxy)phosphinylmethyl]-glycinate | 0.005 mol, 2.6 g | C(C)OC(CN(CP(=O)(OC1=CC(=CC=C1)C)OC1=CC(=CC=C1)C)C(=O)SCC1=CC=CC=C1)=O | C27H30NO6PS
reactant | metachloroperbenzoic acid | 0.005 mol, 1.02 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl-N-[(benzylsulfinyl)carbonyl]-N-[bis(3-methylphenoxy)phosphinylmethyl]-glycinate | C(C)OC(CN(CP(=O)(OC1=CC(=CC=C1)C)OC1=CC(=CC=C1)C)C(=O)S(=O)CC1=CC=CC=C1)=O | C27H30NO7PS
